US07514419B2
To a stirring solution diethyl (3,5-dimethyl-4-triisopropylsilanyloxy-benzenesulfonyl)methylphosphonate in THF (3 mL) at room temperature was added TBAF (0.3 mL, 1 M in THF). It was stirred at room temperature for 2 hrs. The solvent was removed under reduced pressure and the residue was partitioned between ethyl acetate and water. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with ethyl acetate-hexanes (5:1) to afford diethyl (3,5-dimethyl-4-hydroxybenzenesulfonyl)methylphosphonate as a light yellow oil (70 mg, 100%): 1H NMR (300 MHz, CDCl3-d6): δ 7.54 (s, 2 H), 4.12 (m, 4 H), 3.65 (d, J=16.8 Hz, 2 H), 2.22 (s, 6 H), 1.22 (d, J=7.2 Hz, 6 H). TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=ethyl acetate-hexanes (5:1); Rf=0.44.

reactant | diethyl (3,5-dimethyl-4-triisopropylsilanyloxy-benzenesulfonyl)methylphosphonate | CC=1C=C(C=C(C1O[Si](C(C)C)(C(C)C)C(C)C)C)S(=O)(=O)CP(OCC)(OCC)=O | C22H41O6PSSi
reactant | TBAF | 1 M, 0.3 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | diethyl (3,5-dimethyl-4-hydroxybenzenesulfonyl)methylphosphonate | 70 mg, 100% | CC=1C=C(C=C(C1O)C)S(=O)(=O)CP(OCC)(OCC)=O | C13H21O6PS
